US06660753B2
The crude 4-tributylstannyl-1-trityl-1H-imidazole (1.37g) in toluene (10 mL) was treated sequentially with 2-bromopyridine (0.33 mL, 3.43 mmol) and Pd(PPh3)4 (0.26 g, 0.23 mmol). The reaction mixture was heated at reflux under an argon atmosphere for 4 hours. After cooling, the reaction mixture was concentrated in vacuo. The residue was dissolved in chloroform (50 mL) and sequentially washed with aqueous saturated potassium fluoride (75 mL), water (75 mL) and brine (100 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in-vacuo to afford 0.69 g of crude 4-(2-pyridyl)-1-trityl-1H-imidazole.

reactant | 4-tributylstannyl-1-trityl-1H-imidazole | 1.37g | C(CCC)[Sn](C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(CCCC)CCCC
reactant | 2-bromopyridine | 3.43 mmol, 0.33 mL | BrC1=NC=CC=C1 | C5H4BrN
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.23 mmol, 0.26 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-pyridyl)-1-trityl-1H-imidazole | 0.69 g | N1=C(C=CC=C1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H21N3
